US06162819
1-Benzyl-3-(5-carboxy-2-furyl)indazole, potassium salt: 70.26 g (0.3 mol) of 5-(2-fluorobenzoyl)furan-2-carboxylic acid were initially charged in 350 ml of methanol, 109.95 g (0.9 mol) of benzylhydrazine were added and the mixture was, after addition of 8 ml of glacial acetic acid, heated under reflux for 6 h. For work-up, the mixture was concentrated using a rotary evaporator, the residue was taken up in 2N aqueous sodium hydroxide solution and extracted with ethyl acetate. The aqueous phase was acidified with 2N hydrochloric acid and extracted with ethyl acetate. The residue that remained after drying and concentration using a rotary evaporator was recrystallized from ethyl acetate/n-hexane. The 68.3 g (0.20 mol) of 5-(2-fluorobenzoyl)furan-2-carboxylic acid benzylhydrazone (m.p.: 147° C. (decomp.)) obtained in this manner were dissolved in 400 ml of DMF, 45.38 g (0.40 mol) of potassium tert-butoxide were introduced and the mixture was heated under reflux for 30 minutes. The precipitate was filtered off with suction, washed with dichloromethane and recrystallized from ethanol/water (95:5). This gave 57.7 g (54%) of the title compound. The corresponding cyclization of the precursor which was still contained in the mother liquor gave 25.9 g of product. m.p.: >300 ° C. 1H-NMR (D6 -DMSO): δ=5.73 (s, 2H, CH2), 6.68 (d, 1H, H-3'), 6.92 (d, 1H, H-4'), 7.18-7.38 (m, 6H, phenyl-H, H-5), 7.45 (t, 1H, H-6), 7.75 (d, 1H, H-7), 8.18 (d, 1 H, H-4)

reactant | 1-Benzyl-3-(5-carboxy-2-furyl)indazole | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)C(=O)O | C19H14N2O3
reactant | potassium | [K] | K
reactant | 5-(2-fluorobenzoyl)furan-2-carboxylic acid | 0.3 mol, 70.26 g | FC1=C(C(=O)C2=CC=C(O2)C(=O)O)C=CC=C1 | C12H7FO4
reactant | benzylhydrazine | 0.9 mol, 109.95 g | C(C1=CC=CC=C1)NN | C7H10N2
solvent | methanol | 350 ml | CO | CH4O
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 5-(2-fluorobenzoyl)furan-2-carboxylic acid benzylhydrazone | 0.20 mol, 68.3 g | C(C1=CC=CC=C1)NN=C(O)C=1OC(=CC1)C(C1=C(C=CC=C1)F)=O | C19H15FN2O3
